US05508435
(R)-Trans-2-Methoxycarbonylcyclopentanol
2-Methoxycarbonyl-cyclopentanone (4.26 g) was dissolved in methanol (5 mL) and 0.1 mL 1N HCl was added. The mixture was deoxygenated, 1 (36 mg) was added and the mixture was exposed to hydrogen at 40 psi and 40° in a Parr shaker apparatus. After 6 h the reaction was complete, providing a single product (4.10 g) in >95% ee: 1H NMR (CDCl3, 250 MHz) 4.40 (q, J=7.5 Hz, 1H), 3.71 (s, 3H), 2.65 (q, J=7.2 Hz, 1H), 2.1-1.5 (m, 6H).

reactant | 2-Methoxycarbonyl-cyclopentanone | 4.26 g | COC(=O)C1C(CCC1)=O | C7H10O3
reactant | HCl | 1N, 0.1 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | (R)-Trans-2-Methoxycarbonylcyclopentanol | 4.10 g | COC(=O)[C@H]1[C@@H](CCC1)O | C7H12O3
